US08106194B2
A mixture of 8-(4-bromo-2,6-dimethyl-phenyl)-4-chloro-2-methyl-pyrrolo[1,2-a]pyrimidine-6-carbonitrile (7.50 g), thiourea (7.11 g) in ethanol (50 mL) was heated at reflux for 2 h. The reaction mixture was cooled to room temperature, poured into 0.5 M NaOH aqueous solution, stirred for 1 hour and extracted with ethyl acetate. The organic layer was washed with brine, dried over anhydrous sodium sulfate and filtered. The filtrate was concentrated under reduced pressure and the residue was purified by a silica gel column chromatography (silica gel: Wako Gel (C200), eluent: chloroform/methanol=10:1) to give 8-(4-bromo-2,6-dimethyl-phenyl)-4-mercapto-2-methyl-pyrrolo[1,2-a]pyrimidine-6-carbonitrile (7.52 g).

reactant | 8-(4-bromo-2,6-dimethyl-phenyl)-4-chloro-2-methyl-pyrrolo[1,2-a]pyrimidine-6-carbonitrile | 7.50 g | BrC1=CC(=C(C(=C1)C)C=1C=C(N2C1N=C(C=C2Cl)C)C#N)C | C17H13BrClN3
reactant | thiourea | 7.11 g | NC(=S)N | CH4N2S
reactant | NaOH | 0.5 M | [OH-].[Na+]
solvent | ethanol | 50 mL | C(C)O | C2H6O
product | 8-(4-bromo-2,6-dimethyl-phenyl)-4-mercapto-2-methyl-pyrrolo[1,2-a]pyrimidine-6-carbonitrile | 7.52 g | BrC1=CC(=C(C(=C1)C)C=1C=C(N2C1N=C(C=C2S)C)C#N)C | C17H14BrN3S
